US05591862
A mixture of ethyl 3-[4-[2-[2-(2-chlorophenyl)-5-methyl-4-oxazolyl]ethoxy]phenyl]-2-cyanopropionate (2.24 g), 1N NaOH (15 ml) and ethanol (50 ml) was stirred for one hour at room temperature. The reaction mixture was poured into water and made acidic, which was subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), then the solvent was distilled off under reduced pressure to leave a crystalline product, which was added to pyridine (5 ml)--o-dichlorobenzene (50 ml), and the mixture was heated for 2 hours under reflux. The reaction mixture was concentrated under reduced pressure, which was subjected to a silica gel column chromatography. From the fractions eluted with chloroform was obtained 3-[4-[2-[2-(2-chlorophenyl)-5-methyl-4-oxazolyl]ethoxy]phenyl]propionitrile (1.5 g, 80%), which was recrystallized from dichloromethane--isopropyl ether to give pale yellow crystals, m.p.88°-89° C.

reactant | ethyl 3-[4-[2-[2-(2-chlorophenyl)-5-methyl-4-oxazolyl]ethoxy]phenyl]-2-cyanopropionate | 2.24 g | ClC1=C(C=CC=C1)C=1OC(=C(N1)CCOC1=CC=C(C=C1)CC(C(=O)OCC)C#N)C | C24H23ClN2O4
reactant | NaOH | 1N, 15 ml | [OH-].[Na+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | water | O | H2O
solvent | o-dichlorobenzene | 50 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-[4-[2-[2-(2-chlorophenyl)-5-methyl-4-oxazolyl]ethoxy]phenyl]propionitrile | 1.5 g, 80% | ClC1=C(C=CC=C1)C=1OC(=C(N1)CCOC1=CC=C(C=C1)CCC#N)C | C21H19ClN2O2
